US08314087B2
A 15 mL, 1-neck round bottom flask was charged with 5-(5,6-dihydro-2H-pyran-2-yl)-1-(2-(7-methoxyquinolin-4-yloxy)ethyl)pyridin-2(1H)-one (0.006 g, 0.02 mmol), 2 mL dry THF, and a stirbar. The solution was cooled to 0° C., and carefully evacuated and refilled with N2 (three times). To the stirring solution was added Platinum oxide (0.004 g, 0.02 mmol). The solution was carefully evacuated and refilled with hydrogen from a balloon. The cooling bath was removed, and the reaction was stirred overnight. The solution was filtered through a 0.22 uM frit, and the filtrate was concentrated in vacuo. The residue was dissolved in 1 mL EtOH and treated with Silica propyl sulfonic acid (Silicycle, Inc., 0.04 g, 0.03 mmol). The slurry was swirled occasionally for 15 min, filtered and washed with EtOH (2×2 mL). The silica was then eluted with 1 mL of 2N NH3 in EtOH, followed by 2 mL of EtOH. The ammonia solution was concentrated in vacuo to afford 1-(2-(7-methoxyquinolin-4-yloxy)ethyl)-5-(tetrahydro-2H-pyran-2-yl)pyridin-2(1H)-one. 1H NMR (400 MHz, CDCl3) δ ppm 1.36-1.49 (m, 1H) 1.55-1.70 (m, 3H) 1.70-1.78 (m, 1H) 1.89-1.97 (m, 1H) 3.54-3.64 (m, 1H) 3.94 (s, 3H) 4.07-4.18 (m, 2H) 4.43-4.54 (m, 4H) 6.56 (d, J=9.29 Hz, 1H) 6.62 (d, J=5.28 Hz, 1H) 7.11 (dd, J=9.19, 2.54 Hz, 1H) 7.30 (dd, J=9.34, 2.49 Hz, 1H) 7.36 (d, J=2.54 Hz, 1H) 7.55 (d, J=2.54 Hz, 1H) 8.05 (d, J=9.10 Hz, 1H) 8.64 (d, J=5.28 Hz, 1H). 13C NMR (101 MHz, CDCl3) δ ppm 23.59 (s, 1 C) 25.71 (s, 1 C) 33.10 (s, 1 C) 49.18 (s, 1 C) 55.47 (s, 1 C) 65.75 (s, 1 C) 69.01 (s, 1 C) 76.55 (s, 1 C) 99.42 (s, 1 C) 107.11 (s, 1 C) 115.71 (s, 1 C) 118.42 (s, 1 C) 120.46 (s, 1 C) 121.23 (s, 1 C) 122.95 (s, 1 C) 135.65 (s, 1 C) 138.91 (s, 1 C) 151.13 (s, 1 C) 151.70 (s, 1 C) 160.84 (s, 1 C) 160.98 (s, 1 C) 162.22 (s, 1 C). MS (ESI pos. ion) m/z (MH+): 381.2, calcd for C22H24N2O4+H+=381.2.

reactant | 5-(5,6-dihydro-2H-pyran-2-yl)-1-(2-(7-methoxyquinolin-4-yloxy)ethyl)pyridin-2(1H)-one | 0.02 mmol, 0.006 g | O1C(C=CCC1)C=1C=CC(N(C1)CCOC1=CC=NC2=CC(=CC=C12)OC)=O | C22H22N2O4
catalyst | Platinum oxide | 0.02 mmol, 0.004 g | [Pt]=O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 1-(2-(7-methoxyquinolin-4-yloxy)ethyl)-5-(tetrahydro-2H-pyran-2-yl)pyridin-2(1H)-one | COC1=CC=C2C(=CC=NC2=C1)OCCN1C(C=CC(=C1)C1OCCCC1)=O | C22H24N2O4
